US08871782B2
tert-Butyl 2-{[2-(ethoxymethyl)-1-(2-hydroxy-2-methylpropyl)-5-oxido-1H-imidazo[4,5-c]quinolin-7-yl]oxy}ethylcarbamate (2.8 g, 5.05 mmol) was dissolved in dichloromethane (35 mL) and ammonium hydroxide (25 mL). p-Toluenesulfonyl chloride (0.962 g, 5.05 mmol) was added in one portion and the reaction was stirred for 16 hours. The layers were separated and the aqueous fraction was extracted with dichloromethane. The organics were combined and evaporated under reduced pressure. The residue was purified by chromatography on a HORIZON HPFC system (silica gel, 2-25% CMA in chloroform) to provide 1.95 g of tert-butyl 2-{[4-amino-2-(ethoxymethyl)-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-yl]oxy}ethylcarbamate as white crystals.

reactant | tert-Butyl 2-{[2-(ethoxymethyl)-1-(2-hydroxy-2-methylpropyl)-5-oxido-1H-imidazo[4,5-c]quinolin-7-yl]oxy}ethylcarbamate | 5.05 mmol, 2.8 g | C(C)OCC=1N(C2=C(C=[N+](C=3C=C(C=CC23)OCCNC(OC(C)(C)C)=O)[O-])N1)CC(C)(C)O | C24H34N4O6
reactant | p-Toluenesulfonyl chloride | 5.05 mmol, 0.962 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | ammonium hydroxide | 25 mL | [OH-].[NH4+]
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
product | tert-butyl 2-{[4-amino-2-(ethoxymethyl)-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-yl]oxy}ethylcarbamate | 1.95 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(C)O)COCC)OCCNC(OC(C)(C)C)=O | C24H35N5O5
